US08183380B2
(R)—N2-indan-1-yl-quinoline-2,6-diamine (100 mg, 0.36 mmol) and potassium isocyanate (32 mg, 0.40 mmol) were stirred in a 1:1 mixture of water and acetic acid (3 mL) at ambient temperature for 2 h. Then a satured solution of sodium bicarbonate was added, the aqueous phase was extracted with ethyl acetate, the organic phase washed with brine and dried over sodium sulfate. Over night the desired product precipitated and subsequently the crystals were collected and dried under vacuum. [2-((R)-Indan-1-ylamino)-quinolin-6-yl]-urea was obtained as a white solid (44 mg; 38%); MS: m/e=319.3 (M+H+).

reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | 0.36 mmol, 100 mg | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
reactant | potassium isocyanate | 0.40 mmol, 32 mg | [N-]=C=O.[K+]
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | [2-((R)-Indan-1-ylamino)-quinolin-6-yl]-urea | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)N | C19H18N4O
